US06977262B2
4-(2,1,3-Benzothiadiazol-4-yl)-5-cyano-4,7-dihydro-6-(piperidin-4-yl)-2H-pyrazolo[3,4-b]pyridine 2 Hydrochloride
The title compound was prepared from ethyl nipecotate, 2,1,3-benzothiadiazol-4-aldehyde and 3-aminopyrazole in the same manner as in Examples 1001 and 1002.

reactant | ethyl nipecotate | N1CC(C(=O)OCC)CCC1 | C8H15NO2
reactant | 2,1,3-benzothiadiazol-4-aldehyde | N=1SN=C2C1C=CC=C2C=O | C7H4N2OS
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
product | 4-(2,1,3-Benzothiadiazol-4-yl)-5-cyano-4,7-dihydro-6-(piperidin-4-yl)-2H-pyrazolo[3,4-b]pyridine | N=1SN=C2C1C=CC=C2C2C=1C(NC(=C2C#N)C2CCNCC2)=NNC1 | C18H17N7S
